*adder
.TEMP 25
.OPTION ACCURATE
.OPTION POST=2

.global vdd!

* YOU SHOULD INCLUDE MODEL FILES
.INCLUDE "/home/centos/PDK/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_VTL.inc"
.INCLUDE "/home/centos/PDK/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_VTL.inc"

* YOU SHOULD INCLUDE YOUR NELIST
.INCLUDE "./../../backend/pex/myHA.pex.netlist"
xi0 vdd! gnd! A COUT B S myHA

* YOU SHOULD ADD LOAD CAPACITANCE
c0 Cout 0 1e-14
c1 S 0 1e-14

* YOU SHOULD GIVE INPUT PATTERNS FOR TEST CASES
* Input patterns half adder:  
* A: 0 1 0 1 
Vin1 A gnd PULSE (0v 0.7v 4.9n 0.1n 0.1n 4.9n 10n)  
* B: 0 0 1 1 
Vin2 B gnd PULSE (0v 0.7v 9.9n 0.1n 0.1n 9.9n 20n) 

* YOU SHOULD GIVE PROPER INPUT PATTERNS FOR MAXIMUM DELAY

.PARAM PERIOD = 40NS
.PARAM T0= 0.1NS
.PARAM T1= T0+PERIOD
.PARAM T2= T1+0.1NS
.PARAM STEP= 1PS

*REPLACE "10NS" IN THE NEXT LINE WITH THE MEASURED WORST CASE DELAY OF YOUR OWN DESIGN
.PARAM DELAY_MAX= 166.2663ps

VDD   VDD! 0 0.7
VGND  GND! 0 0
.TRAN STEP T2

.MEASURE TOT_POWER AVG POWER FROM T0 TO T1

* THE POWER AT MAX FREQUENCY CAN BE CALCULATED BY DIVIDING THE SWITCHING ENERGY BY THE SWITCHING TIME
* YOU ONLY NEED TO REPORT THE POWER_AT_MAX VALUE. YOU DON'T NEED TO REPORT THE TOT_POWER VALUE
.MEASURE POWER_AT_MAX PARAM='TOT_POWER*PERIOD/DELAY_MAX'

.END








